US04859460
N-chloroacetamidomethyl acrylamide/N-acrylamidomethyl-2-oxopyrrolidine copolymer
18 g of N-chloroacetamidomethyl acrylamide, 18 g of acrylamidomethyl 2-oxopyrrolidine, 144 g of ethanol, 144 g of water and 1.8 g of azobis-iso-butyronitrile are placed in a reactor. The mixture is heated under a nitrogen blanket for 2 hours with constant stirring.

reactant | N-chloroacetamidomethyl acrylamide | 18 g | ClCC(=O)NCNC(C=C)=O | C6H9ClN2O2
reactant | acrylamidomethyl 2-oxopyrrolidine | 18 g | C(C=C)(=O)NCN1C(CCC1)=O | C8H12N2O2
reactant | ethanol | 144 g | C(C)O | C2H6O
reactant | azobis-iso-butyronitrile | 1.8 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | water | 144 g | O | H2O
product | N-chloroacetamidomethyl acrylamide N-acrylamidomethyl-2-oxopyrrolidine | ClCC(=O)NCNC(C=C)=O.C(C=C)(=O)NCN1C(CCC1)=O | InChI=1S/C8H12N2O2.C6H9ClN2O2/c1-2-7(11)9-6-10-5-3-4-8(10)12;1-2-5(10)8-4-9-6(11)3-7/h2H,1,3-6H2,(H,9,11);2H,1,3-4H2,(H,8,10)(H,9,11)
